Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
peanut / Penicillins
 
Attending: ___
 
___ Complaint:
"I get anxious when I'm lonely."
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
IDENTIFICATION: Ms. ___ is a ___ year old domiciled, single, 
employed woman with past psychiatric history of depression, 
anxiety, BIBA following overdose on +handle of vodka, 15 pills 
of lexapro 5mg and 15 clonazepam 0.5mg per nursing note. 
Psychiatry consulted in the ED for safety evaluation.

Pt could not actively participate in interview as she was 
somnolent, slurring speech. Majority of history obtained by 
sister, at bedside.

Per sister, ___ (___) her sister is "going 
through a lot right now," including recent breakup, suspended 
from her job yesterday. Says that she received a call from her 
sister's friend last night (Sister was unwilling to provide a 
name or number for this friend) saying she got a concerning text 
from ___ about potentially taking her own life. Sister 
attempted to call ___ but her phone was turned off. She called 
her roommates who stated that Ryane was in her room and music 
was playing. Her sister drove to ___ from ___ early 
this am and found ___ in bed surrounded by numerous empty 
alcohol bottles. There was also a knife in the bed. Her sister 
was somnolent and intoxicated and she was brought to the ED. 

When asked directly about pill doses, pt states, "I took my 
normal amount of pills." Her sister states that she has been 
going back and forth about whether she took more of her Lexapro 
and clonazepam than prescribed--telling different providers 
different accounts. When asked how much she drank, she states, 
"a lot." Per her sister, she has been drinking a lot this week 
and was actually suspended from work this week, possibly for 
this behavior. 

COLLATERAL:

PCP note from ___ accessed in ___ viewer. Pt saw Dr. 
___ at ___ for assessment of panic attacks. 

At that time pt endorsed recent onset of panic attacks 
characterized by chest tightness, palpitations, shaking, 
tingling in arms, and "feeling like I was dying." She went to 
___ twice with these symptoms and was D'c'ed home, 
once with small Rx for lorazepam. Pt also endorsed increasing 
stress, decreased sleep, insomnia. She sometimes needs Nyquil to 
sleep and states that some nights she is only getting 2-hr of 
sleep. At that time she denied any increase in energy, excessive 
spending, gambling, etc. She denied SI/HI. She was documented 
has having normal mood and affect. 

Scores documented: PHQ-9 7 (out of 27) GAD-7 9 (out of 21) 
AUDIT-C 5 (out of 12)

On interview today, patient largely corroborated above. She
stated she's been experiencing a significant worsening of her
anxiety since ___, in the setting of a recent breakup with
a co-worker. She states she now has to see him everyday at work
and this is particularly stressful. "I get very anxious when I'm
alone." She states her worsening anxiety prompted her to visit
her PCP at ___, who prescribed Lexapro and a benzodiazepine in
early ___ which pt states have reduced her anxiety sx but
not eliminated them altogether. She further shares she had been
steadily increasing her etoh intake, though rarely if ever 
drinks
to excess alone: "I only drink to get drunk when I'm out with
friends." However last week pt drank to excess in order to quell
the anxiety and panic she associates with being alone, and while
intoxicated, decided to overdose on Lexapro and benzodiazepines
with intent to die. She states that this suicide attempt was
impulsive rather than premeditated, as she denies having 
suicidal
ideation prior to being intoxicated. She shares that in
___ in ___ she was charged with driving under the
influence, in the setting of a breakup then as well. She 
endorses
thoughts of self-injurious behavior but denies any frank 
behavior
such as wrist cutting. 

 REVIEW OF SYSTEMS:
 -Psychiatric: 
 ---Depression: Denies symptoms of depression such as depressed
mood, fatigue/loss of energy, anhedonia, thoughts of death/SI,
sleep disturbance including insomnia or hypersomnia, loss of
appetite/weight changes, poor concentration, psychomotor
agitation or retardation.
 ---Anxiety: Endorses panic. Denies worry, rumination, intrusive
thoughts, avoidance, phobias.
 ---Mania: Denies symptoms of mania such as distractibility,
erratic/risky behavior, grandiosity, flight of ideas, increased
activity, decreased need for sleep, or talkativeness/pressured
speech.  
 ---Psychosis: Denies symptoms of psychosis such as auditory or
visual hallucinations, or delusions of reference, paranoia,
thought insertion/broadcasting/withdrawal.
 -General: Denies fever/chills/unintentional weight
loss/cp/sob/abd pain/dysuria.

 
Past Medical History:
Mild intermittent asthma

 
Social History:
Born/raised: ___
 Family/Support: Sister and parents live in ___,
supportive, in fairly close contact, have joined her at the
hospital
  Housing: Was living with parents in ___, but moved in
with roommates in ___ in ___
  Education: Completed ___ year degree at ___ (Dance
Major)
  Employment/Income: pt teaches dance and cardio fitness
  Spiritual: none documented
  Trauma history: pt denies

 FORENSIC HISTORY:
 -Arrests: DUI in ___ in ___
 -Convictions and jail terms: Denies
 -Current status (pending charges, probation, parole): Denies

SUBSTANCE USE HISTORY:
 -Caffeine: 1 cup per day, down from 3 cups/day prior to panic
onset
 -Tobacco: denies, never smoker
 -Alcohol: per sister, escalating etoh use over the past week in
the setting of multiple stressors, unsure of quantity of etoh
that she has been consuming--Per Dr. ___ note on ___
pt reports drinking 10 drinks/wk, predominantly on weekends with
friends.
 ---Blackouts: denies
 ---Withdrawal: denies
 ---DTs: denies
 ---Seizures: denies
 -Marijuana: denies
 -Heroin: denies
 -Opiates: denies
 -Benzos: denies
 -Cocaine: denies
 -Amphetamines/speed: denies
 -LSD/PCP: denies
 -___: denies
 -Other Drugs: Denies

 
Family History:
FAMILY PSYCHIATRIC HISTORY:
 -Psychiatric Diagnoses: Sister, mother - ___
 -Substance Use Disorders: Older sister - now sober from etoh
 -Suicide Attempts/Completed Suicides: none

 
Physical Exam:
VITAL SIGNS:
 T98.2, BP 138/99, HR60, RR16, SpO2 98% RA

EXAM:

General:
 -HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear.  No scleral icterus.
 -Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. Distal pulses ___ throughout.
 -Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
 -Abdominal: Non-distended, bowel sounds normoactive.  No
tenderness to palpation in all quadrants.  No guarding, no
rebound tenderness.
 -Extremities: Warm and well-perfused.  No edema of the limbs.
 -Skin: No rashes or lesions noted.

Neurological:
 -Cranial Nerves:
 ---I: Olfaction not tested.
 ---II: PERRL 3 to 2mm, both directly and consentually; brisk
bilaterally.
 ---III, IV, VI: EOMI without nystagmus
 ---V: Facial sensation intact to light touch in all
distributions
 ---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
 ---VIII: Hearing intact to finger rub bilaterally
 ---IX, X: Palate elevates symmetrically
 ---XI: ___ strength in trapezii and SCM bilaterally
 ---XII: Tongue protrudes in midline
 -Motor: Normal bulk and tone bilaterally. No abnormal 
movements,
 no tremor. Strength ___ throughout.
 -Sensory: No deficits to fine touch throughout
 -DTRs: 2 and symmetrical throughout
 Coordination: grossly intact
 -Gait: Good initiation.  Narrow-based, normal stride and arm
swing. 

Cognition: 
 -Wakefulness/alertness: Awake and alert
 -Attention: MOYb with 0 errors
 -Orientation: Oriented to person, time, place, situation
 -Executive function (go-no go, Luria, trails, FAS): Not tested
 -Memory: ___ registration, ___ recall after 5 ___
grossly intact
 -Fund of knowledge: Consistent with education; intact to last 3
presidents
 -Calculations: 7 quarters = "$1.75"
 -Abstraction: Interprets "the grass is always greener on the
other side" as "it's not always better on the other side."
 -Visuospatial: Not assessed
 -Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
 -Appearance: ___ appearing stated age, well groomed, wearing 
bracelets and nose ring, wearing hospital gown, in no apparent
distress
 -Behavior: Sitting up in chair, appropriate eye contact, no
psychomotor agitation or retardation
 -Attitude: Cooperative, engaged, friendly
 -Mood: "not depressed."
 -Affect: Euthymic, mood-congruent, full range, appropriate to
situation
 -Speech: Normal rate, volume, and tone
 -Thought process: Linear, coherent, goal-oriented, no loose
associations
 -Thought Content:
 ---Safety: Denies SI/HI
 ---Delusions: No evidence of paranoia, etc. 
 ---Obsessions/Compulsions: No evidence based on current
encounter
 ---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
 -Insight: Limited
 -Judgment: Poor

 
Pertinent Results:
___ 05:35AM BLOOD WBC-7.4 RBC-3.97 Hgb-12.8 Hct-38.6 MCV-97 
MCH-32.2* MCHC-33.2 RDW-13.0 RDWSD-46.7* Plt ___
___ 01:17PM BLOOD Neuts-42.4 ___ Monos-6.1 Eos-2.1 
Baso-1.5* Im ___ AbsNeut-2.22 AbsLymp-2.50 AbsMono-0.32 
AbsEos-0.11 AbsBaso-0.08
___ 05:35AM BLOOD Plt ___
___ 05:35AM BLOOD Glucose-86 UreaN-10 Creat-0.8 Na-142 
K-4.4 Cl-100 HCO3-25 AnGap-17
___ 01:17PM BLOOD ALT-21 AST-36 AlkPhos-54 TotBili-0.4
___ 06:40AM BLOOD Cholest-232*
___ 06:40AM BLOOD %HbA1c-4.8 eAG-91
___ 06:40AM BLOOD Triglyc-85 HDL-85 CHOL/HD-2.7 
LDLcalc-130*
___ 06:40AM BLOOD TSH-1.3
___ 01:17PM BLOOD HCG-<5
___ 05:35AM BLOOD Ethanol-NEG
___ 01:17PM BLOOD ASA-NEG ___ Acetmnp-NEG 
Tricycl-NEG
 
Brief Hospital Course:
DISCHARGE SUMMARY

1. LEGAL & SAFETY:  
  On admission, the patient refused to sign a conditional 
voluntary agreement and was admitted on a ___, which 
expired on ___. They were also placed on 15 minute checks 
status on admission and remained on that level of observation 
throughout. Due to stabilization of symptoms and SI, patient was 
able to take part in group walks outside the unit. 

2. PSYCHIATRIC:
This patient presented to the ED following an overdose on 
alcohol, 15 pills of Lexapro 5mg and 15 pills of clonazepam 0.5 
mg. She was unable to be interviewed at this time as she was 
somnolent and had slurred speech. Per collateral from sister, 
patient had multiple stressors building up to this attempt, and 
made a concerning statement to a friend during the night. This 
friend contacted the sister who drove down and found the patient 
in her room surrounded by bottles of alcohol and a knife in the 
bed (which was not used). 

When able to talk coherently, patient corroborated story above. 
Stated that she has had increasing anxiety since moving out of 
parent's home to ___ and breaking up with boyfriend who 
works at the same facility. This caused her to have an initial 
panic attack and admission to the ED to check for medical causes 
of her symptoms. After discharge, she scheduled an appointment 
with her PCP and was prescribed klonopin and Lexapro for her 
anxiety, which helped initially but was not fully effective. She 
continued to have increased anxiety, both from her everyday 
stressors and anxiety about having another panic attack. Alcohol 
use increased significantly during this time period in order to 
cope. Mixed alcohol and benzodiazepines over the weekend that 
took her "to a scary place" which prompted impulsive suicide 
attempt. 

Patient presented on admission with elevated anxiety, intense 
eye contact, and shakiness. Did not report having SI/HI, AVH, 
paranoia, or any symptoms consistent with BPD. 

Our differential diagnosis for this patient included panic 
disorder, MDD, GAD, alcohol use disorder, and adjustment 
disorder. MDD was considered due to SI and insomnia, but was 
ruled less likely due to no report of depressed mood, fatigue, 
loss of energy, anhedonia, loss of appetite, psychomotor 
agitation, or poor concentration. General anxiety disorder was 
considered due to patients report of increased anxiety over the 
past several months. However, patient's anxiety is centered 
around specific relationships/obligations and presents with 
panic attacks - less likely to be GAD. Overall, the patient's 
presentation and history is consistent with panic disorder, 
alcohol use disorder, and adjustment disorder. Patient reports 
having several panic attacks with features including fear of 
dying, shortness of breath, and anxiety about having another 
attack in the future. She also has signs consistent with alcohol 
use disorder, including using alcohol to cope with anxiety, 
binge drinking, and reckless behavior while under the influence. 
Finally, her timeline and general increase in anxiety is 
consistent with adjustment disorder due to her recent move out 
of her parent's home, new job/responsibilities, and break-up 
with significant other at place of work.

This patient was initially started on Lexapro 5 mg QD to help 
cope with here every day anxiety. She was also given hydroxyzine 
BID:PRN for acute treatment. She tolerated both medications well 
without side effects and found hydroxyzine especially useful for 
acute need and assistance with sleep. She also attended multiple 
group sessions during her hospital course in order to help cope 
with various stressors present in her daily life. Levels of 
anxiety decreased significantly from time of admission to 
discharge, lowering from ___ to ___. Patient initially 
downplayed amount of alcohol use over the past months, but 
collateral from father informed team that the problem was much 
more serious. 

Plan was to discharge patient on ___ following family meeting. 
However, father brought up issues surrounding patient's second 
job that caused significant distress and thus was not able to be 
discharged as planned. Needed to spend one extra day to 
restabilize and finalize plans after discharge. Family also 
noted that alcohol use was significantly downplayed by patient - 
plan is to be discharged to ___ at 
___ for 30 day rehabilitation program. 

Report was made to ___ Office on ___ at 16:10. Spoke 
to ___ at ___. No written report was requested.

3. SUBSTANCE USE DISORDERS:
  #) Alcohol use disorder
Patient states that she will try sobriety after her discharge, 
but was more hesitant about trying formal abstinent programs, 
including SMART recovery, 12 step, or AA. Initially against 
using MAT, but decided to try after understanding severity of 
disorder and potential consequences. Given 25 mg Naltrexone and 
script for 50 mg upon discharge. 

4. MEDICAL
  #)Hypercholesterolemia
Patient's cholesterol levels at 232 and LDL at 130 - to follow 
up with PCP next week. 

5. PSYCHOSOCIAL
  #) GROUPS/MILIEU:  
  The patient was encouraged to participate in the various 
groups and milieu therapy opportunities offered by the unit. The 
patient often attended these groups that focused on teaching 
patients various coping skills.  Interactive in the milieu and 
found them helpful. 

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
Collateral from Father:
He is very worried about the patient's alcohol use.  He states
that she is drinking every day, goes to work intoxicated.  He
says that the probation at the fitness to do is related to her
alcohol use disorder.  He states that she has changed over the
last few years, her physique, is more bloated.  It became clear
that the patient is minimizing her drinking and that her family
does not know what to do about this.  He also wanted to share
something about this relationship the patient has been in.

 #) INTERVENTIONS
  - Medications:
Escitalopram Oxalate 5 mg PO DAILY
Naltrexone 50 mg PO DAILY
HydrOXYzine 25 mg PO BID:PRN anxiety/insomnia

  - Psychotherapeutic Interventions: Individual, group, and 
milieu therapy.
  - Coordination of aftercare: 
PCP: Dr. ___ 
___: 
___, 
___
___ 

Psychiatrist: Dr. ___, MD 
Appointment: ___ at 11:00am
___, ___
Tel: ___
Fax: ___

Therapist: ___, ___
Appointment: ___ at 8:00am
___
Tel: ___
Email: ___

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting naltrexone and lexapro, and risks and benefits of 
possible alternatives, including not taking the medication, with 
this patient. We discussed the patient's right to decide whether 
to take this medication as well as the importance of the 
patient's actively participating in the treatment and discussing 
any questions about medications with the treatment team. The 
patient appeared able to understand and consented to begin the 
medication.

RISK ASSESSMENT & PROGNOSIS

  On presentation, the patient was evaluated and felt to be at 
an increased risk of harm to herself and/or others based upon 
her suicide attempt.  Their static factors noted at that time 
include history of suicide attempts, Caucasian race, loss of 
relationship, The modifiable risk factors include active 
substance misuse, lack no establishment of outpatient treatment, 
limited coping skills, anxiety,and age. These were addressed 
through MAT for alcohol misuse, coordination of outpatient 
providers, group therapy for coping skills, and Lexapro for 
anxiety management. The patient is being discharged with many 
protective risk factors, including help-seeking nature, future 
oriented viewpoint, lack of active suicidal ideation, and strong 
social support. Overall, based on the totality of our assessment 
at this time, the patient is not at an acutely elevated risk of 
self-harm nor danger to others. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Escitalopram Oxalate 10 mg PO DAILY 
2. ClonazePAM 0.5 mg PO BID 
3. Albuterol Inhaler 2 PUFF IH DAILY:PRN asthma 

 
Discharge Medications:
Escitalopram Oxalate 5 mg PO DAILY
Hydroxyzine 25 mg BID:PRN for anxiety/insomnia
Naltrexone 50 mg po DAILY
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Panic Disorder 
Adjustment Disorder
Alcohol Use Disorder  

 
Discharge Condition:
Mental Status:
-Appearance: Woman appearing her stated age, well groomed,
wearing nose ring, casual sweatshirt with hospital bottoms, in 
no
apparent distress
-Behavior/Attitude: Sitting casually in chair, normal eye
contact, calm
-Mood: 'Better'
-Affect: Euthymic, mood-congruent, full range, appropriate to
situation
-Speech: Normal rate, volume, tone
-Thought process:  Linear, coherent, goal-oriented, no loose
associations
-Thought Content: Does not report SI/HI, paranoia, AVH. Focused
on treatment and organization of events throughout day
-Orientation: x4
-Insight: Good 
-Judgment: Fair

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this ___ further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
- Please call suicide hot line ___ if you are in a 
crises and need someone to talk to
- Please call Substance Abuse and Mental Health Services 
helpline ___ if you need to talk through substance 
use issues 
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___